US07223782B2
2-Fluoro-3-trifluoromethyl-phenylamine (0.007 g; 0.039 mmol) was added to a suspension of 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride (0.010 g; 0.032 mmol) and PS-DIEA (0.1 g) in acetonitrile (2 mL). The reaction mixture was shaken at room temperature for 12 h at which time PS-TSCl (0.2 g) high loading was added to remove the excess amine. After an additional 12 h of shaking, the reaction mixture was filtered and concentrated to give 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (2-fluoro-3-trifluoromethyl-phenyl)-amide. LCMS m/z=449.9 (M−H)−.

reactant | 2-Fluoro-3-trifluoromethyl-phenylamine | 0.039 mmol, 0.007 g | FC1=C(C=CC=C1C(F)(F)F)N | C7H5F4N
reactant | 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride | 0.032 mmol, 0.010 g | ClC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)Cl | C11H5Cl2F3N2O
reactant | DIEA | 0.1 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (2-fluoro-3-trifluoromethyl-phenyl)-amide | FC1=C(C=CC=C1C(F)(F)F)NC(=O)C=1C=NN(C1C(F)(F)F)C1=CC=C(C=C1)Cl | C18H9ClF7N3O
